US04895860
Step (3) Preparation of 4-[(3,4-Dihydro-2-naphthalenyl)methyl]-3H-1,2,3,5-oxathiadiazole 2-Oxide
Thionyl chloride (2.55 mL, 0.035 mol) was added dropwise to a mixture of N'-hydroxy-(3,4-dihydro-2-naphthalenyl)ethanimidamide (6.5 g, 0.032 mol) and pyridine (5.18 mL, 0.064 mol) in dry CH2Cl2 (100 mL) at 0° C. After the addition, the reaction mixture was concentrated under reduced pressure, placed in an ice bath, diluted with water (50 mL), extracted with ether (3×50 mL), filtered, dried (MgSO4), and concentrated under reduced pressure to give a red brown solid. The solid was triturated three times with ether (50 mL) and recrystallized from ether (75 mL) to yield 1.14 g (14.4%) of pure product as tan crystals, m.p. 118°-120.5° C.

reactant | Thionyl chloride | 0.035 mol, 2.55 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N'-hydroxy-(3,4-dihydro-2-naphthalenyl)ethanimidamide | 0.032 mol, 6.5 g | ON=C(CC1=CC2=CC=CC=C2CC1)N | C12H14N2O
reactant | pyridine | 0.064 mol, 5.18 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 4-[(3,4-Dihydro-2-naphthalenyl)methyl]-3H-1,2,3,5-oxathiadiazole 2-Oxide | 1.14 g, 14.4% | C1=C(CCC2=CC=CC=C12)CC=1NS(ON1)=O | C12H12N2O2S
